US04861778
A mixture of sodium hydride (0.05 g; 0.01 mol; 50% suspension in mineral oil); 2,3-dihydrophthalazine-1,4-dione (1.6 g; 0.01 mol); and ethylbromoacetate (excess) in anhydrous dimethylformamide (50 ml) was refluxed for 24 hours. The dimethylformamide solvent was then evaporated affording a gummy material. This gummy material was purified over column silica gel using chloroform: ethyl acetate (1:1) to obtain the product, 2-(1'-carbethoxymethyl)-2,3-dihydrophthalazine-1,4-dione.

reactant | sodium hydride | 0.01 mol, 0.05 g | [H-].[Na+]
reactant | 2,3-dihydrophthalazine-1,4-dione | 0.01 mol, 1.6 g | C1(NNC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | ethylbromoacetate | C(C)OC(CBr)=O | C4H7BrO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(1'-carbethoxymethyl)-2,3-dihydrophthalazine-1,4-dione | yield of 10% | C(=O)(OCC)CN1C(C2=CC=CC=C2C(N1)=O)=O | C12H12N2O4
